US05532276
A mixture of 1.02 g of valeric acid, 5.2 g of 4-amino-1,2-dihydro-2-oxo-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethylamino]-1-(α-N,N-dimethylcarbamoylbenzyl)pyridine [obtainable by reaction of 3-amino-4-benzylamino-1,2-dihydro-2-oxo-1-(α-N,N-dimethylcarbamoylbenzyl)pyridine with 4-bromomethyl-2'-cyanobiphenyl to give 4-benzylamino-3-(2'-cyanobiphenyl-4-ylmethylamino)-1,2-dihydro-2-oxo-1-(α-N,N-dimethylcarbamoylbenzyl)pyridine, reaction with trimethyltin azide to give 4-benzylamino-1,2-dihydro-2-oxo-3-(2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethylamino)-1-(α-N,N-dimethylcarbamoylbenzyl)pyridine, and hydrogenolytic cleavage of the benzyl group] and 50 g of polyphosphoric acid is heated for 5 hours at 140°. 4-Amino-1,2-dihydro-2-oxo-2-(N-(2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl)-N-valerylamino)-1-(α-N,N-dimethylcarbamoylbenzyl)pyridine and 1,2-dihydro-2-oxo-3-(2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethylamino)-1-(α-N,N-dimethylcarbamoylbenzyl)-4-valerylaminopyridine are formed in situ as intermediates. The mixture is cooled, poured onto ice, rendered alkaline with sodium hydroxide solution and worked up in a conventional manner to give 2-butyl-3-(2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl)-4,5-dihydro-4-oxo-5-(α-N,N-dimethylcarbamoylbenzyl)-3H-IP.

reactant | valeric acid | 1.02 g | C(CCCC)(=O)O | C5H10O2
reactant | 4-amino-1,2-dihydro-2-oxo-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethylamino]-1-(α-N,N-dimethylcarbamoylbenzyl)pyridine | 5.2 g | NC1=C(C(N(C=C1)C(C1=CC=CC=C1)C(N(C)C)=O)=O)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C29H28N8O2
reactant | 3-amino-4-benzylamino-1,2-dihydro-2-oxo-1-(α-N,N-dimethylcarbamoylbenzyl)pyridine | NC=1C(N(C=CC1NCC1=CC=CC=C1)C(C1=CC=CC=C1)C(N(C)C)=O)=O | C22H24N4O2
reactant | 4-bromomethyl-2'-cyanobiphenyl | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
reactant | 4-benzylamino-3-(2'-cyanobiphenyl-4-ylmethylamino)-1,2-dihydro-2-oxo-1-(α-N,N-dimethylcarbamoylbenzyl)pyridine | C(C1=CC=CC=C1)NC1=C(C(N(C=C1)C(C1=CC=CC=C1)C(N(C)C)=O)=O)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C36H33N5O2
reactant | trimethyltin azide | C[Sn](C)(C)N=[N+]=[N-]
product | 4-benzylamino-1,2-dihydro-2-oxo-3-(2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethylamino)-1-(α-N,N-dimethylcarbamoylbenzyl)pyridine | C(C1=CC=CC=C1)NC1=C(C(N(C=C1)C(C1=CC=CC=C1)C(N(C)C)=O)=O)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C36H34N8O2
